US07700625B2
2-(4-Methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-isoindole-1,3-dione
1-(2-Bromo-ethoxy)-2-methoxy-ethane (107 mg, 0.58 mmol) was added to a suspension of 4-hydroxy-2-(4-methoxy-benzyl)-isoindole-1,3-dione (150 mg, 0.53 mmol) and potassium carbonate (200 mg, 1.4 mmol) in DMF (2 mL). After 3.5 hours, a catalytic amount of potassium iodide was added. After a further 17 hours, the mixture was warmed to 60° C. After 3 hours, an additional amount of 1-(2-bromo-ethoxy)-2-methoxy-ethane (20 mg, 0.11 mmol) was added and the mixture maintained at 60° C. for a further 20 hours. The mixture was concentrated in vacuo then the residue was taken up in ethyl acetate and washed with potassium carbonate solution and brine. The organic phase was dried (MgSO4) and concentrated to give the title compound as a yellow oil (149 mg, 73%). 1H NMR (methanol-d4) 7.71 (1H, t), 7.43-7.40 (2H, m), 7.31-7.27 (2H, m), 6.87-6.83 (2H, m), 4.71 (2H, s), 4.37-4.34 (2H, m), 3.92-3.89 (2H, m), 3.77-3.74 (5H, m), 3.55-3.53 (2H, m), 3.33 (3H, s). MS: [M+H]+ 386.

reactant | 1-(2-Bromo-ethoxy)-2-methoxy-ethane | 0.58 mmol, 107 mg | BrCCOCCOC | C5H11BrO2
reactant | 4-hydroxy-2-(4-methoxy-benzyl)-isoindole-1,3-dione | 0.53 mmol, 150 mg | OC1=C2C(N(C(C2=CC=C1)=O)CC1=CC=C(C=C1)OC)=O | C16H13NO4
reactant | potassium carbonate | 1.4 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 1-(2-bromo-ethoxy)-2-methoxy-ethane | 0.11 mmol, 20 mg | BrCCOCCOC | C5H11BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-Methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-isoindole-1,3-dione | 149 mg, 73% | COC1=CC=C(CN2C(C3=CC=CC(=C3C2=O)OCCOCCOC)=O)C=C1 | C21H23NO6
